US07696223B2
a) 7-Cyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of Example 6(a) from 3-bromo-7-cyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, ammonium formate and Pd/C. The title compound, ESI MS (m/z): 402 (M+H)+.

reactant | 3-bromo-7-cyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Br)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C23H15BrFN3O3
reactant | ammonium formate | C(=O)[O-].[NH4+]
catalyst | Pd/C | [Pd] | Pd
product | 7-Cyano-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C23H16FN3O3
